US04110353
Tetrahydronaphthoquinone - Isoprene Dimer Adduct
A solution of 101 g (0.623 mole) of tetrahydronaphthoquinone and 110 g (0.81 mole) of 2,7-dimethyl-1,3,7-octatriene in 300 ml cyclohexane was refluxed for 18 hours. After removal of 200 ml solvent, 300 ml of hexane were added. The mixture was then warmed, stirred with powdered charcoal, and filtered. On cooling, 151.3 g of crude product were obtained (81.5% yield). A 3 g analytical sample, after recrystallization from 20 ml hexane, had a mp of 87.5° to 88° C.

reactant | tetrahydronaphthoquinone | 0.623 mole, 101 g | C1(CCC(C2CC=CC=C12)=O)=O | C10H10O2
reactant | 2,7-dimethyl-1,3,7-octatriene | 0.81 mole, 110 g | CC(=C)C=CCCC(=C)C | C10H16
solvent | cyclohexane | 300 ml | C1CCCCC1 | C6H12
product | Tetrahydronaphthoquinone Isoprene | 151.3 g, 81.5% yield | C1(CCC(C2CC=CC=C12)=O)=O.C=CC(C)=C | InChI=1S/C10H10O2.C5H8/c11-9-5-6-10(12)8-4-2-1-3-7(8)9;1-4-5(2)3/h1-3,8H,4-6H2;4H,1-2H2,3H3
